US07119205B2
4-hydroxy-3-(2′-hydroxy-1,1′-biphenyl-4-yl)thieno[2,3-b]pyridin-6(7H)-one
4-hydroxy-3-(2′-hydroxy-1,1′-biphenyl-4-yl)-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile (0.040 g) in 40% H2SO4 (20 mL) was heated at reflux for 16 hours, cooled to room temperature and quenched with 50% NaOH (till pH=2). It was then extracted with ethyl acetate (3×70 mL), organic extracts washed with water (25 mL), brine (15 mL), concentrated and purified on a RP-HPLC system to afford the title compound. MS (ESI) m/e 334.0 (M−H)+; 1H NMR (400 MHz, DMSO-d6): δ ppm 10.96 (s, 1H), 9.52 (s, 1H), 7.53 (d, J=8.59, 2H), 7.47 (d, J=7.98, 2H), 7.29 (dd, J=7.67, 1.84, 1H), 7.16 (m, 1H), 7.04 (s, 1H), 6.96 (d, J=7.97, 1H), 6.89 (m, 1H), 5.76 (s, 1H).

reactant | 4-hydroxy-3-(2′-hydroxy-1,1′-biphenyl-4-yl)-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile | 0.040 g | OC=1C2=C(NC(C1C#N)=O)SC=C2C2=CC=C(C=C2)C2=C(C=CC=C2)O | C20H12N2O3S
solvent | H2SO4 | 20 mL | OS(=O)(=O)O | H2O4S
product | 4-hydroxy-3-(2′-hydroxy-1,1′-biphenyl-4-yl)thieno[2,3-b]pyridin-6(7H)-one | OC=1C2=C(NC(C1)=O)SC=C2C2=CC=C(C=C2)C2=C(C=CC=C2)O | C19H13NO3S
